US07528120B2
e) Phosphoric acid mono-[(R/S)-2-hydroxymethyl-4-(4-octyl-phenyl)-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-butyl]ester (OPA-derivatization)
The endproduct of step d) ((R/S)-FTY720-phosphate) (50 mg; 0.125 mmol) is suspended in a solution of EDTA (0.5 ml; 10 mM in water) and aqueous boric acid (0.5 ml; 3% in water; adjusted to pH 10.5 with aqueous KOH10%). After addition of OPA (33 mg, 0.25 mmol), dissolved in ethanol (0.5 ml), the reaction is kept at RT for 1 hour (ultrasound). After that the pH is adjusted to 3.5 (aqueous HCl; 1N) and extracted with ethylacetate (three times). The organic layer is dried over Na2SO4 and the compound is purified on silica gel using methylenechloride/methanol (95/5→0/100) as mobile phase.

reactant | Phosphoric acid mono-[(R/S)-2-amino-2-hydroxymethyl-4-(4-octyl-phenyl)-butyl]ester | NC(COP(O)(O)=O)(CCC1=CC=C(C=C1)CCCCCCCC)CO | C19H34NO5P
reactant | EDTA | 10 mM, 0.5 ml | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | boric acid | 0.5 ml, pH 10.5 | B(O)(O)O | BH3O3
reactant | HCl | Cl | ClH
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | Phosphoric acid mono-[(R/S)-2-hydroxymethyl-4-(4-octyl-phenyl)-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-butyl]ester | OCC(COP(O)(O)=O)(CCC1=CC=C(C=C1)CCCCCCCC)N1C(C2=CC=CC=C2C1)=O | C27H38NO6P
